US07868026B2
Step 2: methyl 2-{[(4-methoxypyridin-3-yl)amino]sulfonyl}benzoate
To a solution of 5-methoxypyridin-3-amine (1 eq) in pyridine (0.4 M) was added methyl 2-(chlorosulfonyl)benzoate (1 eq) and the mixture was stirred overnight at room temperature. The mixture was diluted with saturated aqueous NaHCO3 and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash chromatography to give afford the title compound. 1H NMR (400 MHz, DMSO-D6) δ 9.35-9.57 (m, 1H) 8.54-8.61 (m, 1H) 8.17-8.23 (m, 1H) 7.74-7.85 (m, 2H) 7.61-7.73 (m, 1H) 7.32-7.42 (m, 1H) 6.91-7.00 (m, 1H) 3.73 (s, 3H) 3.51 (s, 3H)

reactant | 5-methoxypyridin-3-amine | 1 eq | COC=1C=C(C=NC1)N | C6H8N2O
reactant | methyl 2-(chlorosulfonyl)benzoate | 1 eq | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 0.4 M | N1=CC=CC=C1 | C5H5N
product | methyl 2-{[(4-methoxypyridin-3-yl)amino]sulfonyl}benzoate | COC1=C(C=NC=C1)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H14N2O5S
